US08030337B2
(2-Methyl-6,7-dihydro-8H-indeno[5,4-d][1,3]thiazol-8-ylidene)acetonitrile
To a suspension of diethyl cyanomethylphosphonate (393 mg, 2.22 mmol) in tetrahydrofuran (6 mL) was added 65% sodium hydride (66.0 mg, 1.79 mmol) under ice-cooling, and the mixture was stirred at room temperature for 30 min. Thereto was added a solution of 2-methyl-6,7-dihydro-8H-indeno[5,4-d][1,3]thiazol-8-one (300 mg, 1.48 mmol) in tetrahydrofuran (6 mL), and the mixture was stirred at room temperature for 2 hr. To the mixture were added diethyl cyanomethylphosphonate (131 mg, 0.74 mmol) and 65% sodium hydride (16.0 mg, 0.43 mmol), and the mixture was further stirred at room temperature for 30 min. To the reaction mixture was added saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate) to give the title compound (181 mg, yield 54%).

reactant | diethyl cyanomethylphosphonate | 2.22 mmol, 393 mg | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | sodium hydride | 1.79 mmol, 66.0 mg | [H-].[Na+]
reactant | 2-methyl-6,7-dihydro-8H-indeno[5,4-d][1,3]thiazol-8-one | 1.48 mmol, 300 mg | CC=1SC2=C(N1)C=CC=1CCC(C12)=O | C11H9NOS
reactant | diethyl cyanomethylphosphonate | 0.74 mmol, 131 mg | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | sodium hydride | 0.43 mmol, 16.0 mg | [H-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | (2-Methyl-6,7-dihydro-8H-indeno[5,4-d][1,3]thiazol-8-ylidene)acetonitrile | 181 mg, yield 54% | CC=1SC2=C(N1)C=CC=1CCC(C12)=CC#N | C13H10N2S
